US06949542B2
5-Ethoxy-[2-{3-[3-(2,6-dimethyl-pyridin-4-yl)-phenyl]-3-oxo-propionylamino}-4-trifluoromethyl-phenyl]-carbamic acid tert-butyl ester
The title compound was prepared from [2-amino-5-ethoxy-4-trifluoromethyl-phenyl]-carbamic acid tert-butyl ester (Example J8) (320 mg, 1.0 mmol) and 3-[3-(2,6-dimethyl-pyridin-4-yl)-phenyl]-3-oxo-propionic acid tert-butyl ester (Example K15) (325 mg, 1.0 mmol) according to the general procedure M. Obtained as a light yellow foam (530 mg, 93%).

reactant | [2-amino-5-ethoxy-4-trifluoromethyl-phenyl]-carbamic acid tert-butyl ester | 1.0 mmol, 320 mg | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)OCC)C(F)(F)F)N)=O | C14H19F3N2O3
reactant | 3-[3-(2,6-dimethyl-pyridin-4-yl)-phenyl]-3-oxo-propionic acid tert-butyl ester | 1.0 mmol, 325 mg | C(C)(C)(C)OC(CC(=O)C1=CC(=CC=C1)C1=CC(=NC(=C1)C)C)=O | C20H23NO3
product | 5-Ethoxy-[2-{3-[3-(2,6-dimethyl-pyridin-4-yl)-phenyl]-3-oxo-propionylamino}-4-trifluoromethyl-phenyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)OCC)C(F)(F)F)NC(CC(=O)C1=CC(=CC=C1)C1=CC(=NC(=C1)C)C)=O)=O | C30H32F3N3O5
